US06677368B2
To a mixture of 4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-indole (pinacole 4-indoleboronate (2 g, 8.2 mmol) and 3-bromobenzene (0.87 mL, 8.3 mmol) in THF (28 mL) were added Palladium catalyst Pd(PPh3)4 (284 mg, 0.25 mmol) and the freshly prepared sodium hydroxide solution (984 mg in 9 mL of water). The system was degassed and then charged with nitrogen for three times. The mixture was stirred under nitrogen at 70° C. oil bath for 6 hours. The reaction solution was cooled to room temperature, diluted with ethyl acetate and separated from water layer. The ethyl acetate solution was washed by brine, dried over Na2SO4 and concentrated. The residue was purified on a silica gel column eluting with hexanes:EtOAc 9:1 to give 1.38 g (78%) of 4-phenyl-1H-indole as a colorless liquid.

reactant | 4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-indole | CC1(OB(OC1(C)C)C1=C2C=CNC2=CC=C1)C | C14H18BNO2
reactant | 4-indoleboronate | 8.2 mmol, 2 g | N1C=CC=2C(=CC=CC12)B([O-])[O-]
reactant | 3-bromobenzene | 8.3 mmol, 0.87 mL | BrC=1C=CC=CC1 | C6H5Br
reactant | sodium hydroxide | 9 mL, 984 mg | [OH-].[Na+]
solvent | THF | 28 mL | C1CCOC1 | C4H8O
catalyst | Palladium | 0.25 mmol, 284 mg | [Pd] | Pd
product | 4-phenyl-1H-indole | 1.38 g, 78% | C1(=CC=CC=C1)C1=C2C=CNC2=CC=C1 | C14H11N
